US07696200B2
The title compound, MS (ISP)=492.0 (M−H)−, was produced as described in example 1, steps 1-6. Step 3 was performed using 3-chlorobenzenesulfonyl chloride, furnishing 4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester, which was hydrolyzed in step 4, leading to 4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid. This was reacted with ethyl 2-amino-4-thiazoleacetate in step 5 and yielded (2-{[4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid | ClC=1C=C(C=CC1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)O | C15H12ClNO5S
reactant | ethyl 2-amino-4-thiazoleacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | (2-{[4-(3-chloro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-thiazol-4-yl)-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=CC(=CC=C2)Cl)C1)=O | C22H20ClN3O6S2
